US06806024B1
41.0 g (0.25 mol) of methyl phenylglyoxalate are dissolved in 300 ml of pyridine. 19.1 g (0.27 mol) of hydroxylammonium hydrochloride are added in portions to this solution. When the addition is complete, the reaction mixture is stirred at room temperature for 20 hours. After addition of ethyl acetate and water, the organic layer is separated, washed with diluted HCl and water and dried over magnesium sulfate. Evaporation of the solvent gives 45 g (100%) of crude methyl α-(hydroxyimino)-2-phenylacetate as a slightly brownish liquid. This compound is used without further purification in the next reaction step. 1H-NMR (CDCl3), δ [ppm]:7.55-7.30 (m, 5 aromatic H); 3.96 and 3.87 (s, 3H, CH3O of the trans and cis isomers). The trans/cis isomer ratio is approximately 3:1.

reactant | methyl phenylglyoxalate | 0.25 mol, 41.0 g | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | hydroxylammonium hydrochloride | 0.27 mol, 19.1 g | Cl.O[NH3+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | methyl α-(hydroxyimino)-2-phenylacetate | 45 g, 100% | ON=C(C(=O)OC)C1=CC=CC=C1 | C9H9NO3
